US04292240
A hydroxyl radical may be substituted for hydrogen on the N4 atom of the diaza ring in a manner similar to that described immediately hereinabove, except that only one equivalent of m-chloroperbenzoic acid is used. Thus starting with 1 equiv of N1 -isopropyl-3,5,5-trimethyl-3-isobutyl-2-piperazinone and 2 equivs of m-chloroperbenzoic acid, we obtain 3-isobutyl-N4 -hydroxy-N1 -isopropyl-3,5,5-trimethyl-2-piperazinone.

reactant | hydroxyl radical | [OH] | HO
reactant | hydrogen | [H][H] | H2
reactant | m-chloroperbenzoic acid | one equivalent | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | N1 -isopropyl-3,5,5-trimethyl-3-isobutyl-2-piperazinone | 1 equiv | C(C)(C)N1C(C(NC(C1)(C)C)(CC(C)C)C)=O | C14H28N2O
product | 3-isobutyl-N4 -hydroxy-N1 -isopropyl-3,5,5-trimethyl-2-piperazinone | C(C(C)C)C1(C(N(CC(N1O)(C)C)C(C)C)=O)C | C14H28N2O2
